US07238689B2
10.0 g (72.3 mmoles) of anhydrous potassium carbonate and 12.8 g (90.3 mmoles) of methyl iodide were added, at room temperature, to a solution of 10.0 g (60.2 mmoles) of 3-hydroxy-1-methyl-5-trifluoromethyl-1H-pyrazole dissolved in 50 ml of N,N-dimethylformamide. The mixture was stirred for 15 hours to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water, followed by extraction with diethyl ether. The resulting organic layer was washed with water and an aqueous sodium chloride solution in this order and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein, to obtain 9.8 g (yield: 90.7%) of 3-methoxy-1-methyl-5-trifluoromethyl-1H-pyrazole.

reactant | potassium carbonate | 72.3 mmoles, 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 90.3 mmoles, 12.8 g | CI | CH3I
reactant | 3-hydroxy-1-methyl-5-trifluoromethyl-1H-pyrazole | 60.2 mmoles, 10.0 g | OC1=NN(C(=C1)C(F)(F)F)C | C5H5F3N2O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-methoxy-1-methyl-5-trifluoromethyl-1H-pyrazole | 9.8 g, yield: 90.7% | COC1=NN(C(=C1)C(F)(F)F)C | C6H7F3N2O
